US06225330B1
N2-{4-[(Propylamino)methyl]cyclohexyl}-4,5-dihydrobenzo-[2,3]oxepino[4,5-d][1,3]thiazol-2-amine:
To a solution of N1-{[4-(4,5-dihydrobenzo[2,3]oxepino[4,5-d][1,3]thiazol-2-ylamino)cyclohexyl]methyl}propanamide (0.380 g, 0.944 mmol) in anhydrous THF (7 ml) was added 1M BH3 in THF (2.0 ml, 2.0 mmol). The solution was stirred for several hours at room temperature. TLC (EtOAc) indicated reaction to be incomplete and an additional 2.5 ml 1M BH3 in THF was added to the solution which was then stirred overnight. 4N HCl (25 ml) was slowly added to the stirred solution and the solution was washed with EtOAc. The aqueous layer was made basic by addition of 20% NaOH. The resulting solution was extracted with EtOAc and the extract washed with water. Upon removal of the solvent, 72% (254 mg) of the product was obtained as a white solid: 1H-NMR (CDCl3) δ 0.88 (3H, t, J=7.3 Hz), 1.12 (4H, m), 1.43 (3H, m), 1.75 (2H, m), 2.14 (2H, m), 2.41 (2H, d, J=6.6 Hz), 2.51 (2H, t, J=7.4 Hz), 2.60 (1H, m), 3.10 (2H, t, J=5.0 Hz), 3.22 (1H, m), 4.27 (2H, t, J=5.0 Hz), 5.35 (1H, m), 6.95 (1H, d, J=7.6 Hz), 7.06 (2H, m), 8.20 (1H, d, J=7.3 Hz); 372 (ESMS, MH+).

reactant | N1-{[4-(4,5-dihydrobenzo[2,3]oxepino[4,5-d][1,3]thiazol-2-ylamino)cyclohexyl]methyl}propanamide | 0.944 mmol, 0.380 g | N1=C(SC2=C1C1=C(OCC2)C=CC=C1)NC1CCC(CC1)CNC(CC)=O | C21H27N3O2S
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | HCl | 4N, 25 ml | Cl | ClH
solvent | THF | 7 ml | C1CCOC1 | C4H8O
solvent | THF | 2.0 mmol, 2.0 ml | C1CCOC1 | C4H8O
product | N2-{4-[(Propylamino)methyl]cyclohexyl}-4,5-dihydrobenzo-[2,3]oxepino[4,5-d][1,3]thiazol-2-amine | 254 mg, 72% | C(CC)NCC1CCC(CC1)NC=1SC2=C(N1)C1=C(OCC2)C=CC=C1 | C21H29N3OS
